US05728686
Diethyl [4-(1-methoxyethyl-3-methylxanthin-7-yl)butyl]phosphonate
The title substance was prepared from 1-methoxyethyl-3-methylxanthine and diethyl 4-chlorobutanephosphonate analogously to Example 4 and crystallized from diisopropyl ether.

reactant | 1-methoxyethyl-3-methylxanthine | COC(C)N1C(=O)N(C=2N=CNC2C1=O)C | C9H12N4O3
reactant | diethyl 4-chlorobutanephosphonate | ClCCCCP(OCC)(=O)OCC | C8H18ClO3P
product | Diethyl [4-(1-methoxyethyl-3-methylxanthin-7-yl)butyl]phosphonate | COC(C)N1C(=O)N(C=2N=CN(C2C1=O)CCCCP(OCC)(OCC)=O)C | C17H29N4O6P
